US05021420
The experiment is carried out as in Example 1, starting with 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (12 g), triethylamine (6 cc) and 4-(4-hydroxyphenyl)-1,2,3,6-tetrahydropyridine (7.5 g) in dimethylformamide (120 cc). The mixture is heated for 8 hours at boiling point, then cooled to a temperature of about 20° C. Stirring is continued for 12 hours at this temperature. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with ethyl acetate as eluant, and recrystallization from boiling acetonitrile (80 cc), 2-{3-[4-(4-hydroxyphenyl)-1,2,3,6-tetrahydro-1-pyridyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide (3.3 g) is obtained, m.p. 198° C.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 12 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | triethylamine | 6 cc | C(C)N(CC)CC | C6H15N
reactant | 4-(4-hydroxyphenyl)-1,2,3,6-tetrahydropyridine | 7.5 g | OC1=CC=C(C=C1)C=1CCNCC1 | C11H13NO
solvent | dimethylformamide | 120 cc | CN(C=O)C | C3H7NO
product | 2-{3-[4-(4-hydroxyphenyl)-1,2,3,6-tetrahydro-1-pyridyl]propyl}naphtho[1,8-cd]isothiazole 1,1-dioxide | 3.3 g | OC1=CC=C(C=C1)C=1CCN(CC1)CCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C24H24N2O3S
